US03940395
Employing the procedure of Example VII, 7.0 g. of 4,6-dichloro-2-(p-chlorophenyl)-pyrimidine and 30 ml. of N-(β-aminoethyl)-morpholine is reacted to produce 8.9 g. of product. Recrystallization from n-heptane affords 4-chloro-2-(4-chlorophenyl)-6-[2-(morpholino)ethylamino]-pyrimidine, m.p. 127°-129°C.

reactant | 4,6-dichloro-2-(p-chlorophenyl)-pyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)Cl | C10H5Cl3N2
reactant | N-(β-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
product | 4-chloro-2-(4-chlorophenyl)-6-[2-(morpholino)ethylamino]-pyrimidine | ClC1=NC(=NC(=C1)NCCN1CCOCC1)C1=CC=C(C=C1)Cl | C16H18Cl2N4O
